US06984646B2
8-Benzoyl-2-isopropylimidazo[1,2-a]pyridin-5(1H)-one
The compound is prepared as described in example 15 with 105 mg (0.46 mmol) of 2-(4-isopropyl-1H-imidazol-2-yl)-1-phenylethanone (example X, 48.3 mg (0.69 mmol) of propiolic acid and 134 mg (0.83 mmol) of 1-(1H-imidazol-1-yl-carbonyl)-1H-imidazole.

reactant | 2-(4-isopropyl-1H-imidazol-2-yl)-1-phenylethanone | 0.46 mmol, 105 mg | C(C)(C)C=1N=C(NC1)CC(=O)C1=CC=CC=C1 | C14H16N2O
reactant | propiolic acid | 0.69 mmol, 48.3 mg | C(C#C)(=O)O | C3H2O2
reactant | 1-(1H-imidazol-1-yl-carbonyl)-1H-imidazole | 0.83 mmol, 134 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 8-Benzoyl-2-isopropylimidazo[1,2-a]pyridin-5(1H)-one | C(C1=CC=CC=C1)(=O)C1=C2N(C(C=C1)=O)C=C(N2)C(C)C | C17H16N2O2
